US05304563
Methyl 2-[3-methoxy-4-(quinolin-2-yl-methoxy)phenyl]acetate
In analogy to the procedure of Example XIV, the title compound is prepared from 16 g (0.082 mol) of methyl 3-methoxy-4-hydroxyphenylacetate, 14.5 g (0.082 mol) of 2-chloromethylquinoline and 3.28 g (0.082 mol) of sodium hydroxide.

reactant | methyl 3-methoxy-4-hydroxyphenylacetate | 0.082 mol, 16 g | COC=1C=C(C=CC1O)CC(=O)OC | C10H12O4
reactant | 2-chloromethylquinoline | 0.082 mol, 14.5 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | sodium hydroxide | 0.082 mol, 3.28 g | [OH-].[Na+]
product | Methyl 2-[3-methoxy-4-(quinolin-2-yl-methoxy)phenyl]acetate | COC=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)CC(=O)OC | C20H19NO4
